US04192884
4-(((5-chloro-2thienyl)methyl)amino)-benzoic acid
A mixture containing 46.6 grams (0.34 moles) of p-aminobenzoic acid, 50 grams (0.34 moles) of 5-chloro-2-thiophenecarboxaldehyde and 400 ml. of toluene was heated to reflux for about three and a half hours. The water formed was collected in a Dean-Stark trap. The reaction mass was cooled at the end of this period and the Schiff base collected as a tan solid. To a mixture of the intermediate Schiff base and 1.2 liters of glacial acetic acid 21.2 grams (0.36 moles) of dimethylaminoborane was added. The reaction mass was warmed to 40° C. for about 30 minutes and poured in 2 liters of ice water. The white precipitate of 4-(((5-chloro-2-thienyl)methyl)amino)benzoic acid was washed in water, dried, and recrystallized from toluene. The melting point was 177°-178° C.

reactant | p-aminobenzoic acid | 0.34 moles, 46.6 grams | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | 5-chloro-2-thiophenecarboxaldehyde | 0.34 moles, 50 grams | ClC1=CC=C(S1)C=O | C5H3ClOS
reactant | acetic acid | 0.36 moles, 1.2 liters, 21.2 grams | C(C)(=O)O | C2H4O2
reactant | dimethylaminoborane | CN(C)B | C2H8BN
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(((5-chloro-2thienyl)methyl)amino)-benzoic acid | ClC1=CC=C(S1)CNC1=CC=C(C(=O)O)C=C1 | C12H10ClNO2S
